US07544697B2
Acetyl chloride (7.1 mL, 100 mmol) was added to ethanol (100 mL) at 0° C. The resulting solution was added to the tert-butyl 2-(4-amino-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)ethylcarbamate from Part G. The solution was heated at reflux for 9.5 hours. Upon cooling to ambient temperature, a precipitate formed that was isolated after two days by filtration, washed with a small amount of cold ethanol, and dried to yield 5.78 g of 1-(2-aminoethyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine dihydrochloride as a white solid.

reactant | Acetyl chloride | 100 mmol, 7.1 mL | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 2-(4-amino-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)ethylcarbamate | NC1=NC=2C=CC=CC2C=2C1=NN(C2CCNC(OC(C)(C)C)=O)CCC | C20H27N5O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-(2-aminoethyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine dihydrochloride | 5.78 g | Cl.Cl.NCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCC | InChI=1S/C15H19N5.2ClH/c1-2-9-20-12(7-8-16)13-10-5-3-4-6-11(10)18-15(17)14(13)19-20;;/h3-6H,2,7-9,16H2,1H3,(H2,17,18);2*1H
